US03953442
b. 1-(2-chlorophenyl)-3-(2-aminopropyl)indole (Code No. 6100
0.052 mole of 1-(2-chlorophenyl)-3-(2-hydroxyiminopropyl)indole is dissolved in 150 ml of dry tetrahydrofuran. 6 gms of lithium aluminium hydride are slowly added whilst refluxing for 3.5 hours. The reaction mixture is then poured on to a mixture of ice and ammonia and the product extracted with ether. The ethereal extract is treated with an N hydrochloric acid solution. The latter is then rendered alkaline with N soda solution. The turbid substance formed is extracted with ether, washed with water and dried. On removing the solvent the primary amine is obtained which, after recrystallisation from di-isopropyl ether, had a melting point of 79°C.

reactant | 1-(2-chlorophenyl)-3-(2-hydroxyiminopropyl)indole | 0.052 mole | ClC1=C(C=CC=C1)N1C=C(C2=CC=CC=C12)CC(C)=NO | C17H15ClN2O
reactant | lithium aluminium hydride | 6 gms | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1-(2-chlorophenyl)-3-(2-aminopropyl)indole | ClC1=C(C=CC=C1)N1C=C(C2=CC=CC=C12)CC(C)N | C17H17ClN2
